US05643932
In 25 ml of acetic acid was dissolved 2 g of 6-[2-(3,4-dimethoxybenzoyloxy)acetyl]-3,4-dihydro-carbostyril. Thereto was added 2 g of ammonium acetate. The mixture was stirred at 130° C. for 3 hours with heating. The solvent was removed by distillation. The residue was dissolved in ethanol. The solution was treated with active carbon, and then recrystallization was conducted to obtain 120 mg of 2-(3,4-dimethoxyphenyl)-4-(3,4-dihydrocarbostyril-6-yl)oxazole as light brown acicular crystals.

reactant | 6-[2-(3,4-dimethoxybenzoyloxy)acetyl]-3,4-dihydro-carbostyril | 2 g | COC=1C=C(C(=O)OCC(=O)C=2C=C3CCC(NC3=CC2)=O)C=CC1OC | C20H19NO6
reactant | ammonium acetate | 2 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-(3,4-dimethoxyphenyl)-4-(3,4-dihydrocarbostyril-6-yl)oxazole | 120 mg | COC=1C=C(C=CC1OC)C=1OC=C(N1)C=1C=C2CCC(NC2=CC1)=O | C20H18N2O4
